US03957819
3-(m-Chlorophenyl)-2-(3-chloropropylamino)-3H-indol-3-ol
Thionylchloride (2.2 g., 1.36 ml.) was added dropwise to a stirred suspension of 3-(m-chlorophenyl)-2-(3-hydroxypropylamino)-3H-indol-3-ol (3.16 g.) in chloroform (25ml.) at 0°C. The reaction mixture was heated under reflux for 45 minutes. the mixture was then cooled and the chloroform evaporated off at reduced pressure. Toluene (25 ml.) was added to the residue and after evaporation the procedure was repeated with a second quantity of toluene. The residue was then dissolved in the minimum quantity of isopropyl alcohol and a small quantity of ether was added to give the title compound as the hydrochloride, colourless rhombs (2.20 g.), m.p. 199° to 203°C.(decomp.). (Found C, 55.15; H, 4.6; N, 7.5. C17H16N2Cl2O2HCl requires C, 54.9; H, 4.6; N, 7.5%)

reactant | Thionylchloride | 1.36 ml, 2.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(m-chlorophenyl)-2-(3-hydroxypropylamino)-3H-indol-3-ol | 3.16 g | ClC=1C=C(C=CC1)C1(C(=NC2=CC=CC=C12)NCCCO)O | C17H17ClN2O2
solvent | chloroform | 25ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(m-Chlorophenyl)-2-(3-chloropropylamino)-3H-indol-3-ol | ClC=1C=C(C=CC1)C1(C(=NC2=CC=CC=C12)NCCCCl)O | C17H16Cl2N2O
